US04474692
N-(N'-Ethoxycarbonylmethyl-N'-benzylglycyl)-N-(indan-2-yl)glycine benzyl ester (3 g) is dissolved in 100 ml of ethanol, and catalytic reduction is carried out at ordinary temperature and pressure using 5% palladium-carbon as catalyst. After absorption of 2 equivalents of hydrogen, the reaction mixture is filtered to remove the catalyst. The ethanol is distilled off under reduced pressure to give an oily substance. Addition of ethanolic hydrochloric acid with 100 ml of ether to the oily substance gives N-(N'-ethoxycarbonylmethylglycyl)-N-(indan-2-yl)glycine hydrochloride as colorless powder.

reactant | N-(N'-Ethoxycarbonylmethyl-N'-benzylglycyl)-N-(indan-2-yl)glycine benzyl ester | 3 g | C(C1=CC=CC=C1)OC(CN(C1CC2=CC=CC=C2C1)C(CN(CC1=CC=CC=C1)CC(=O)OCC)=O)=O | C31H34N2O5
reactant | hydrogen | 2 equivalents | [H][H] | H2
reactant | hydrochloric acid | Cl | ClH
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium-carbon | [C].[Pd]
product | N-(N'-ethoxycarbonylmethylglycyl)-N-(indan-2-yl)glycine hydrochloride | Cl.C(C)OC(=O)CNCC(=O)N(CC(=O)O)C1CC2=CC=CC=C2C1 | InChI=1S/C17H22N2O5.ClH/c1-2-24-17(23)10-18-9-15(20)19(11-16(21)22)14-7-12-5-3-4-6-13(12)8-14;/h3-6,14,18H,2,7-11H2,1H3,(H,21,22);1H
